Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nsaids / morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Endoscopic ultrasound ___
Upper endoscopy ___

 
History of Present Illness:
Patient is a ___ F p/w history of chronic abdominal pain for 
decades, now worsening over last 8 months and having acute flare 
of abdominal pain over last ___ days. Her pain is described as 
diffuse, sharp, shooting, cramping abdominal pain over past 8 
months. Her pain is worsened with eating solids but she is able 
to tolerate liquids. Her pain has typically been rated as a 
___ and controlled with oxycodone. Over the last several 
days, she rates her pain as ___ and not controlled with 
oxycodone. She reports intermittent nausea, controlled with 
zofran, denies vomiting. She endorses diarrhea- ___ episodes per 
day. She denies melena or hematochezia. She has also had a 30 
pound weight loss over 6 months, flushing, and occasional 
diaphoresis. Has had multiple negative work-ups in past, 
currently followed by Dr. ___. In ___, she was found to 
have elevated chromogrfin, serotonin and high urinary %-HIAA. 
She had a MRI at an outside location which was normal. There is 
still some concern for neuro-endocrine tumor (possibly 
carcinoid), and plan has been for EUS guided biopsy later this 
week w/Dr. ___.  
  
In the ED, initial VS: 99.4 71 101/53 16 99% RA. On exam, 
abdomen soft but diffusely tender, most notable in upper 
abdomen. Bowel sounds present. Guiac neg. Patient appears 
uncomfortable. GI was consulted. Patient given dilaudid 0.5mg IV 
x2 (taking oxycodone 60mg TID as outpatient, has allergy to 
morphine). VS prior to transfer were 99.5, 18, 108/65, 66, 
98%RA.  
  
Currently, patient complaining of ___ abdominal pain, down from 
___ in ED.  

REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain,constipation, BRBPR, hematochezia, dysuria.  

 
Past Medical History:
-hypertriglyceridemia  
-hypertension  
-chronic fibromyalgia (no symptoms in years per pt)
-depression (no symptoms in years per pt)
-migraines  
-history of DMII, now 'pre-diabetic' after weight loss  
-bilateral neuropathy in feet  
.  
PAST SURGICAL HISTORY:  
-appendectomy in early ___ 
-cholecystectomy ___
-right ovarian cyst removal ___  
-hysterectomy ___
-laparoscopic band procedure in ___, subsequently removed 
because of infection
-surgery for herniated discs in the L5-S1 level ___  
-tonsillectomy age ___
-orthopedic procedures on her elbows and feet (for tendonitis, 
plantar fascitis ___ years ago)
-bilateral ACL repairs ___

 
Social History:
___
Family History:
2 uncles who died of liver cancer, 1 died of pancreatitis, all 
alcohol related.
 
Physical Exam:
Admission:
VS - Temp 96.5 F, BP 94/49, HR 66, R 16, O2-sat 92% RA  
GENERAL - well-appearing female in NAD, comfortable, appropriate 
 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM,  
NECK - supple, no JVD  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/ND, diffusely TTP, , no rebound/guarding, 
no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, diminished sensation over bilateral ___ 
 
___ Results:
Labs on admission:
___ 07:59PM URINE  UCG-NEGATIVE
___ 07:59PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:59PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:59PM   WBC-8.5 RBC-4.04* HGB-11.9* HCT-35.6* MCV-88 
MCH-29.5 MCHC-33.4 RDW-12.7
___ 07:59PM   NEUTS-57.1 ___ MONOS-5.3 EOS-4.0 
BASOS-0.8
___ 07:59PM   PLT COUNT-306
___ 07:59PM   GLUCOSE-82 UREA N-6 CREAT-0.6 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-27 ANION GAP-16
___ 07:59PM   ALT(SGPT)-15 AST(SGOT)-19 ALK PHOS-103 TOT 
BILI-0.2
___ 07:59PM   LIPASE-27
___ 07:59PM   ALBUMIN-4.5

Pathology (antrum/duodenal biopsies) ___: Pending at the 
time of discharge

EGD/EUS ___:
The pancreatic parenchyma was evaluated and was hyperechoic as 
compared to the spleen. Pancreatic duct delineation was clear 
without obscuring visualization. Fine dots in the pancreatic 
parenchyma were clearly seen. These findings were found in the 
pancreatic head and uncinate process 
These findings are consistent with fatty pancreas. The liver 
parenchyma was evaluated and appeared to be normal. The pancreas 
duct measured 3 mm in maximum diameter in the head of the 
pancreas and 1.7 mm in maximum diameter in the body of the 
pancreas. The duct was normal in echotexture and contour. No 
intra-ductal stones were noted. No dilated side-branches were 
noted. The bile duct appeared normal in size. EGD was performed. 
Normal mucosa in the stomach (biopsy) Normal mucosa in the 
duodenum(biopsy) Otherwise normal upper EUS and EGD to second 
part of the duodenum

 
Brief Hospital Course:
HOSPITAL SUMMARY: Patient is a ___ F who presents with acute on 
chronic abdominal pain (present to some degree for ___ years, 
significantly worse over the past 8 months, unbearable for 
several days prior to admission and ___ on presentation) as 
well as nausea and vomiting thought to be related to functional 
abdominal pain. She has had an extensive outpatient work up in 
the past and no etiology for her symptoms has ever been 
discovered (she does carry diagnoses of IBS and fibromyalgia, 
though it is unclear that these conditions would explain pain of 
this severity). During this admission, she was evaluated by the 
gastroenterology consult service who recommended inpatient EUS 
with EGD (had previously been scheduled for the same time as an 
outpatient). Biopsies of the antrum and duodenum were taken, but 
the study overall was unremarkable. She was evaluated by the 
pain service for her uncontrolled pain, who recommended in-house 
dose of toradol (she does have a history of GI bleed and should 
not be on NSAIDs longterm, but given the extent of her pain it 
was determined that for a one-time dose benefits may outweigh 
risks). They also recommended re-trial of TCA (she has tried 
amitryptiline and nortryptiline in the past without significant 
improvement, though it has been some time since she tried TCA 
and she is now on different complementary medications). However, 
the patient preferred to discuss TCA trial with her outpatient 
pain specialist, so TCA was not initiated in-house. Finally, 
they recommended pursuing further alternative medicine 
techniques, including acupuncture and mind-body medicine. Given 
her obvious distress over the degree of her pain, she was also 
seen by social work (___) and provided with resources 
to assist with coping in the outpatient setting. Her outpatient 
pain doctor ___ in ___) was contacted regarding 
her pain med regimen, and a discrepancy was noted between his 
records (oxycodone 30 mg TID, clonazepam 1 mg BID) and the 
patient's practice (oxycodone 60 mg TID, and clonazepam 2 mg 
BID). Given the degree of the patient's pain and 
mental/emotional stress and the fact that prescriptions had been 
written in such a way as to allow for the doses she was using, 
no changes were made to her medication regimen. She will follow 
up with Dr. ___ to alert him to her current practice 
and discuss adjustments as an outpatient. 

ACTIVE ISSUES:

# ABDOMINAL PAIN: Course as above. MRI and CT scans were 
uploaded to PACS. She was continued on home doses of oxycodone 
and initially received IV dilaudid in addition for pain; this 
was stopped as it appeared to confer limited benefit. Nexium was 
changed to omeprazole while in-house. Reglan, 
diphenoxylate-atropine, gabapentin, ranitidine, and dicyclomine 
were continued at home doses. 
  
# ABNORMAL NEUROENDOCRINE STUDIES: Patient was noted to have 
elevated chromogranin A to 148 (range 1.9-15.0) and seratonin 
elevated to 289 (reference ___ in ___. Per patient, 
she later had these studies repeated at an outside lab (Quest) 
and results were similar (faxed to Dr. ___ not in our 
system). There is potential for carcinoid tumor, which could 
possibly explain her chronic diarrhea and other systemic 
symptoms (occasional episodes of flushing) though seems less 
likely to explain chronic ___ pain. She has had a recent 
abdominal MRI (patient brought image on disk and it was uploaded 
into PACS) which did not show any evidence of tumor. She was 
encouraged to follow up on these abnormal studies with her PCP 
and Dr. ___ and to obtain an additional referral if needed.

CHRONIC ISSUES:

# MOOD/SLEEP: Patient denies symptoms recently; was diagnosed 
with depression "years ago" but feels mood has been stable. 
Continued clonazepam at patient's self-reported dose. Contined 
ambien.
   
# HYPERTIGLYCERIDEMIA: Held gemfibrozil as may contribute to 
diarrhea, abdominal pain. Patient will follow up with her PCP 
regarding ___ use.

# HYPERTENSION: Normotensive during this admission. Metoprolol 
and lisinopril were initially held.

TRANSITION OF CARE:
- She has follow up scheduled with her outpatient pain provider 
___ she will discuss dosing of pain medications 
at this visit.
- She has follow up scheduled with Dr. ___ ___, who will 
need to follow up the biopsies taken during EGD (pathology 
pending at discharge).
- We have recommended she follow up with her PCP to discuss next 
step in work up of abnormal neuroendocrine studies noted in the 
past.
- Contact during this admission was husband ___ ___.
- Code status during this admission was FULL CODE.
 
Medications on Admission:
-Nexium 40 mg po three times a day  
-Metoclopramide 10 mg po three times a day before meals  
-Lopid (gemfibrozil) 600 mg by mouth twice a day  
-lisinopril 40 mg by mouth once a day  
-diphenoxylate-atropine 2.5 mg-0.025 mg Tab ___ Tablet(s) po QID 
 
-Ambien 10 mg by mouth at bedtime prn insomnia  
-oxycodone 30 mg 2 tabs po TID  
-Neurontin 800 mg po three times a day  
-ranitidine 300 mg po Qhs  
-Zofran 8 mg po three times a day  
-Klonopin 2 mg po Twice Daily  
-metoprolol tartrate 50 mg po Daily  
-Lotronex -- Unknown Strength 1 Tablet(s), as needed (takes 
rarely)  
-Bentyl 20 mg po Three times daily 
 
Discharge Medications:
1. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO three times a day.  
2. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO three 
times a day: with meals.  
3. diphenoxylate-atropine 2.5-0.025 mg Tablet Sig: ___ Tablets 
PO Q6H (every 6 hours) as needed for diarrhea.  
4. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
5. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
6. oxycodone 30 mg Tablet Sig: ___ Tablets PO three times a day. 
 
7. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
8. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO TID (3 times a day).  
9. ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
10. clonazepam 1 mg Tablet Sig: Two (2) Tablet PO twice a day as 
needed for anxiety.  
11. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO 
twice a day.  
12. Lotronex  Oral
13. Bentyl 20 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
14. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Chronic abdominal pain

SECONDARY:
- Hypertriglyceridemia
- Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with worsening abdominal pain. You 
were evaluated by the gastroenterology service, who performed 
endoscopic ultrasound with upper endoscopy. No significant 
abnormalities were noted that would explain your symptoms. You 
were also seen by the pain consult service, who recommended some 
changes to your medication regimen; after discussion with you, 
we have decided to regimen defer changes until you meet with 
your pain specialist on ___. You were also seen by social 
work and provided with contact information for resources to help 
you cope with the stress caused by your illness. 

We recommend the following changes to your medication regimen: 
- STOP TAKING gemfibrozil (Lopid) as this may worsen abdominal 
pain. Discuss alternatives with your PCP.
- BEGIN TAKING acetaminophen 1000 mg by mouth every 6 hours. 
While this medication will not control your pain alone, it can 
be helpful to improve the benefit you get from your overall pain 
regimen.
 
Followup Instructions:
___